US08957089B2
68.4 N-[2-({1-[1-(4-Chlorophenyl)cyclobutyl]-1,2,3,4-tetrahydroisoquinolin-6-yl}oxy)ethyl]propane-1-sulfonamide hydrochloride
N-[2-({1-[1-(4-Chlorophenyl)cyclobutyl]-3,4-dihydroisoquinolin-6-yl}oxy)ethyl]propane-1-sulfonamide (320 mg, 0.62 mmol) was dissolved in methanol (5 mL) and water (0.1 mL) and sodiumborohydride (47 mg, 1.25 mmol) was added at 4° C. in small portions. The reaction mixture was allowed to warm to room temperature and stirring was continued over night. The solvent was evaporated in vacuo, the residue was treated with dichloromethane and water. The aqueous layer was extracted several times with dichloromethane. The combined organic layers were dried (Na2SO4) and concentrated in vacuo. The crude product was purified by preparative HPLC (RP, acetonitrile, water). The purified amine was then converted into the corresponding hydrochloric acid salt by adding 5M isoporpanolic hydrochloric acid followed by concentration in vacuo. Yield: 35 mg (0.07 mmol, 11%, colorless solid).

reactant | N-[2-({1-[1-(4-Chlorophenyl)cyclobutyl]-3,4-dihydroisoquinolin-6-yl}oxy)ethyl]propane-1-sulfonamide | 0.62 mmol, 320 mg | ClC1=CC=C(C=C1)C1(CCC1)C1=NCCC2=CC(=CC=C12)OCCNS(=O)(=O)CCC | C24H29ClN2O3S
reactant | water | 0.1 mL | O | H2O
reactant | sodiumborohydride | 1.25 mmol, 47 mg | [BH4-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | N-[2-({1-[1-(4-Chlorophenyl)cyclobutyl]-1,2,3,4-tetrahydroisoquinolin-6-yl}oxy)ethyl]propane-1-sulfonamide hydrochloride | Cl.ClC1=CC=C(C=C1)C1(CCC1)C1NCCC2=CC(=CC=C12)OCCNS(=O)(=O)CCC | InChI=1S/C24H31ClN2O3S.ClH/c1-2-16-31(28,29)27-14-15-30-21-8-9-22-18(17-21)10-13-26-23(22)24(11-3-12-24)19-4-6-20(25)7-5-19;/h4-9,17,23,26-27H,2-3,10-16H2,1H3;1H
